US05734081
[S-(R*,R*)]-2-{2-[2-(1-Carboxy-2-methyl-butylcarbamoyl) -6-fluoro-phenyldisulfanyl]-3-fluoro-benzoylamino}-3-methyl-pentanoic acid (General method)
To a solution of [S-(R*,R*)]-2-[2-[2-(1-tert-butoxycarbonyl-2-methyl-butylcarbamoyl)-6-fluorophenyldisulfanyl]-3-fluoro- benzoylamino]-3-methylpentanoic acid tert butyl ester (0.6 g ,0.8 mmol) and anisole (1 ml) in 10 mL dichloromethane at 0° C., was added dropwise 10 mL trifluoroacetic acid. The mixture was allowed to warm to ambient temperature. After 4 hours, 5 mL toluene was added and the solvents were removed in vacuo. The crude product was recrystallized from methanol/water to yield 0.2 g of the title compound, mp 188°-190° C.

reactant | 2-[2-[2-(1-tert-butoxycarbonyl-2-methyl-butylcarbamoyl)-6-fluorophenyldisulfanyl]-3-fluoro- benzoylamino]-3-methylpentanoic acid tert butyl ester | 0.8 mmol, 0.6 g | C(C)(C)(C)OC(C(C(CC)C)NC(C1=C(C(=CC=C1)F)SSC1=C(C=CC=C1F)C(NC(C(CC)C)C(=O)OC(C)(C)C)=O)=O)=O | C34H46F2N2O6S2
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-{2-[2-(1-Carboxy-2-methyl-butylcarbamoyl) -6-fluoro-phenyldisulfanyl]-3-fluoro-benzoylamino}-3-methyl-pentanoic acid | 0.2 g | C(=O)(O)C(C(CC)C)NC(=O)C1=C(C(=CC=C1)F)SSC1=C(C(=O)NC(C(=O)O)C(CC)C)C=CC=C1F | C26H30F2N2O6S2
